US04062862
21.6 g of allylbenzene was dissolved in 200 ml of chloroform and to the mixture was added dropwise 41.4 g of m-chloroperbenzoic acid dissolved in 1l of chloroform at 0° - 5° C. The resulting mixture was reacted with slow stirring for 55 hours while maintaining the temperature at 0° - 5° C. After the completion of the reaction, m-chlorobenzoic acid crystals were filtered off and the filtrate was washed twice with 5% sodium hydroxide solution and then water. After dried over anhydrous sodium sulfate, the solvent was evaporated to obtain the residue. This was distilled under reduced pressure to give 16.9 g (yield 70.5%) of allylbenzene oxide as colourless oil having a boiling point of 60° C/2 mmHg.

reactant | allylbenzene | 21.6 g | C(C=C)C1=CC=CC=C1 | C9H10
reactant | m-chloroperbenzoic acid | 41.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | m-chlorobenzoic acid | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | allylbenzene oxide | 16.9 g, yield 70.5% | C(C=C)C12C(C=CC=C1)O2 | C9H10O
